US07169797B2
2-((3-iodophenyl)amino)ethanol
A mixture of 3-iodoaniline (2.0 g, 9.1 mmol) and 2-bromoethanol (0.32 mL, 4.6 mmol) in a sealed tube was heated at 160° C. for 2 hours. Cooled to room temperature, sat. NaHCO3 and water were added. The resulting mixture was extracted with ethyl acetate, the organic layer was washed with brine, dried, evaporated under reduced pressure. The crude product was purified on a ISCO MPLC to provide the titled compound as a light brown oil (770 mg, 38.6% yield). MS (ESI(+)) m/e 264 (M+H)+.

reactant | 3-iodoaniline | 9.1 mmol, 2.0 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | 2-bromoethanol | 4.6 mmol, 0.32 mL | BrCCO | C2H5BrO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
product | 2-((3-iodophenyl)amino)ethanol | 770 mg, 38.6% yield | IC=1C=C(C=CC1)NCCO | C8H10INO
